US07452886B2
7-(2,2-Dimethyl-propyl)-6-tetrazol-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.33 mmol) and 1H-tetrazole (0.65 mmol) are dissolved in DMF (3 ml). To the solution, K2CO3 (0.98 mmol) is added and the mixture is stirred at room temperature under nitrogen atmosphere for 23 h. The reaction mixture is diluted with water and extracted with AcOEt. The organic layer is washed with brine, dried over sodium sulfate, and concentrated. The crude product is purified by silica gel column chromatography to give A in 45% yield and B in 48% yield in the order of elution.

reactant | 6-Bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.33 mmol | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
reactant | 1H-tetrazole | 0.65 mmol | N1N=NN=C1 | CH2N4
reactant | K2CO3 | 0.98 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(2,2-Dimethyl-propyl)-6-tetrazol-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 45% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2N=NN=C2)(C)C | C14H16N8
